US08455646B2
Preparation of (R)-3-[2-(4-fluoro-benzylamino)-2-phenyl-acetoxy]-1-(2-oxo-2-phenyl-ethyl)-1-azonia-bicyclo[2.2.2]octane bromide (C243)
A mixture of (R)-quinuclidin-3-yl 2-(4-fluorobenzylamino)-2-phenylacetate (C78) (61 mg, 0.17 mmol) and 2-bromo-1-phenylethanone (33.0 mg, 0.17 mmol) in ethyl acetate (3 mL) is stirred at RT overnight. The solid is collected by suction filtration and washed with Et2O. The product is further purified by flash chromatography (DCM/MeOH=95/5 to 92/8) to obtain the title compound as a white solid (35 mg, 37% yield, bromide salt, mixture of diastereoisomers).

reactant | (R)-quinuclidin-3-yl 2-(4-fluorobenzylamino)-2-phenylacetate | 0.17 mmol, 61 mg | FC1=CC=C(CNC(C(=O)O[C@H]2CN3CCC2CC3)C3=CC=CC=C3)C=C1 | C22H25FN2O2
reactant | 2-bromo-1-phenylethanone | 0.17 mmol, 33.0 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | (R)-3-[2-(4-fluoro-benzylamino)-2-phenyl-acetoxy]-1-(2-oxo-2-phenyl-ethyl)-1-azonia-bicyclo[2.2.2]octane bromide | 35 mg, 37% yield | [Br-].FC1=CC=C(CNC(C(=O)O[C@H]2C[N+]3(CCC2CC3)CC(C3=CC=CC=C3)=O)C3=CC=CC=C3)C=C1 | InChI=1S/C30H32FN2O3.BrH/c31-26-13-11-22(12-14-26)19-32-29(25-9-5-2-6-10-25)30(35)36-28-21-33(17-15-24(28)16-18-33)20-27(34)23-7-3-1-4-8-23;/h1-14,24,28-29,32H,15-21H2;1H/q+1;/p-1/t24?,28-,29?,33?;/m0./s1
